US04775762
Preparation of 2-Chloro-6-hydrazinopyridine and Certain Analogs
The following were prepared analogously and analyzed by nmr spectroscopy: 2-bromo-6-hydrazinopyridine, m.p. 112°-114° C. (from 2,6-dibromopyridine); 2-fluoro-6-hydrazinopyridine, m.p. 74°-76° C. (from 2,6-difluoropyridine); 2-hydrazino-6-(trifluoromethyl)pyridine, m.p. 62°-64° C. (from 2-chloro-6-(trifluoromethyl)pyridine; 3-hydrazino-5-(trifluoromethyl)pyridine, pale yellow solid (from 3-fluoro-5-(trifluoromethyl)pyridine); 4-hydrazino-2,3,5,6-tetrachloropyridine, m.p. 180°-181° C. (from pentachloropyridine).

reactant | 2-bromo-6-hydrazinopyridine | BrC1=NC(=CC=C1)NN | C5H6BrN3
reactant | 2,6-dibromopyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 2-fluoro-6-hydrazinopyridine | FC1=NC(=CC=C1)NN | C5H6FN3
reactant | 2,6-difluoropyridine | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 2-hydrazino-6-(trifluoromethyl)pyridine | N(N)C1=NC(=CC=C1)C(F)(F)F | C6H6F3N3
reactant | 2-chloro-6-(trifluoromethyl)pyridine | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | 3-hydrazino-5-(trifluoromethyl)pyridine | N(N)C=1C=NC=C(C1)C(F)(F)F | C6H6F3N3
reactant | 3-fluoro-5-(trifluoromethyl)pyridine | FC=1C=NC=C(C1)C(F)(F)F | C6H3F4N
reactant | 4-hydrazino-2,3,5,6-tetrachloropyridine | N(N)C1=C(C(=NC(=C1Cl)Cl)Cl)Cl | C5H3Cl4N3
reactant | pentachloropyridine | ClC1=C(C(=C(C(=N1)Cl)Cl)Cl)Cl | C5Cl5N
product | 2-Chloro-6-hydrazinopyridine | ClC1=NC(=CC=C1)NN | C5H6ClN3
